US08242125B2
149-A. (4-(1H-indol-5-yloxy)pyridin-2-yl)methanol
To a solution of (4-chloropyridin-2-yl)methanol (384 mg, 2.67 mmol) in DMF (12 mL) is added 1H-indol-5-ol (534 mg, 4.01 mmol), and cesium carbonate (1307 mg, 4.01 mmol). The reaction is sealed and heated to 160° C. via microwave irradiation for 30 min. The reaction mixture is then cooled to room temperature and diluted brine and DCM. The resulting layers are separated and the aqueous layer is extracted three additional times with DCM. The organic layers are combined dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (0-100% EtOAc/heptane) to give the title compound. MS (ESI) m/z 241.2 (M+1).

reactant | (4-chloropyridin-2-yl)methanol | 2.67 mmol, 384 mg | ClC1=CC(=NC=C1)CO | C6H6ClNO
reactant | 1H-indol-5-ol | 4.01 mmol, 534 mg | N1C=CC2=CC(=CC=C12)O | C8H7NO
reactant | cesium carbonate | 4.01 mmol, 1307 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (4-(1H-indol-5-yloxy)pyridin-2-yl)methanol | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CO | C14H12N2O2
